US07550474B2
f. [6-Cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetic Acid Pentafluorophenyl Ester
To a solution of the lithium salt of [6-cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetic acid (75 mg, 0.22 mmol), prepared essentially as described in Example 1k, in N,N-dimethylformamide (0.250 mL) and methylene chloride (0.750 mL) was added pentafluorophenol (121 mg, 0.66 mmol), pyridine hydrochloride (52 mg, 0.45 mmol), dimethylaminopyridine (14 mg, 0.11 mmol), and finally diisopropylcarbodiimide (0.038 mL, 0.24 mmol). The mixture was stirred at room temperature for 24 h. The solvents were evaporated under high vacuum and the residue was purified by flash column chromatography (20-30% ethyl acetate in hexanes) to yield the desired compound (51 mg, 50%). 1H-NMR (300 MHz, CDCl3) δ 8.68 (d, J=5.5 Hz, 1H), 7.84 (td, J=7.8 Hz, 1.7 Hz, 1H), 7.69 (dt, J=7.9 Hz, 1.1 Hz, 1H), 7.40-7.45 (m, 1H), 7.35 (dd, J=8.6 Hz, 1.3 Hz, 1H), 6.86 (t, J=8.5 Hz, 1H), 5.05 (br s, 1H), 4.12-4.23 (m, 4H). LC/MS (m/z) [M+1]+ 502.3 (calculated for C22H12F8N3O2, 502.3).

reactant | lithium | [Li] | Li
reactant | [6-cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetic acid | 0.22 mmol, 75 mg | C(#N)C1=CC=C(C(=C1CC(=O)O)F)NCC(C1=NC=CC=C1)(F)F | C16H12F3N3O2
reactant | pentafluorophenol | 0.66 mmol, 121 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | pyridine hydrochloride | 0.45 mmol, 52 mg | Cl.N1=CC=CC=C1
reactant | dimethylaminopyridine | 0.11 mmol, 14 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | diisopropylcarbodiimide | 0.24 mmol, 0.038 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 0.250 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 0.750 mL | C(Cl)Cl | CH2Cl2
product | [6-Cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetic Acid Pentafluorophenyl Ester | 51 mg, 50% | FC1=C(C(=C(C(=C1OC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=CC=C1)(F)F)F)=O)F)F)F)F | C22H11F8N3O2
